US07223766B2
2-(2-Fluoro-benzoylamino)-thiophene-3-carboxylic acid amide
2-Amino-thiophene-3-carboxylic acid amide (8.73 g, 61.4 mmole) was dissolved in pyridine (100 ml) cooled to 0° C. and 2-fluorobenzoyl chloride was added dropwise over 20 min, then reaction was allowed to warm to room temperature with stirring overnight. The pyridine was removed under vacuum, added dichloromethane and water. Product precipitated as a grey solid and was washed with dilute hydrochloric acid, water and air dried. The dichloromethane layer was separated, washed with dilute hydrochloric acid, and water, dried over sodium sulfate (anh.) and solvent removed to give a total of 12.45 g product (77% yield).

reactant | 2-Amino-thiophene-3-carboxylic acid amide | 61.4 mmole, 8.73 g | NC=1SC=CC1C(=O)N | C5H6N2OS
reactant | 2-fluorobenzoyl chloride | FC1=C(C(=O)Cl)C=CC=C1 | C7H4ClFO
solvent | pyridine | 100 ml | N1=CC=CC=C1 | C5H5N
product | 2-(2-Fluoro-benzoylamino)-thiophene-3-carboxylic acid amide | 12.45 g, 77% yield | FC1=C(C(=O)NC=2SC=CC2C(=O)N)C=CC=C1 | C12H9FN2O2S
